US07642264B2
5′-Bromo-4-(4-chloro-phenyl)-6-methyl-[2,3′]bipyridinyl
The title compound was prepared from 4-(4-chloro-phenyl)-2-iodo-6-methyl-pyridine (example A.29) (2.15 g, 6.5 mmol) and commercially available 3-bromo-pyridine-boronic acid [CAS-No. 452972-09-07] (alternatively prepared from commercially available 3,5-dibromopyridine according to Tetrahedron 2002, 58(17), 3323 or Synthesis 2003, (7), 1035) (1.448 g, 7.1 mmol) according to the general procedure IVb. Obtained as a white solid (1.35 g, 57%). MS (ISP) 358.9 [(M+H)+], 360.9 [(M+2+H)+] and 363.0 [(M+4+H)+].

reactant | 4-(4-chloro-phenyl)-2-iodo-6-methyl-pyridine | 6.5 mmol, 2.15 g | ClC1=CC=C(C=C1)C1=CC(=NC(=C1)C)I | C12H9ClIN
reactant | 3-bromo-pyridine-boronic acid | BrC=1C(=NC=CC1)B(O)O | C5H5BBrNO2
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
product | 5′-Bromo-4-(4-chloro-phenyl)-6-methyl-[2,3′]bipyridinyl | BrC=1C=C(C=NC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)Cl)C | C17H12BrClN2
